US08106070B2
2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol
Hydrogen chloride (4 M in 1,4-dioxane) (6 mL, 24 mmol) was added to a solution of 4-(2,2-dimethylpropyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (1.5 g, 3.27 mmol) in methanol (20 mL). After stirring at 70° C. for 1 h, volatiles were removed. The residue was partitioned between methanol/ethyl acetate and 10% aqueous sodium hydroxide. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% acetone/methylene chloride afforded the title compound. 1H NMR (500 MHz, CD3OD) δ 8.48 (d, J=2.8 Hz, 1H), 7.82 (dd, J=5, 8.3 Hz, 1H), 7.74 (d, J=8.3 Hz, 2H), 7.64 (dt, J=2.8, 8.3 Hz, 1H), 7.08 (d, J=8.3 Hz, 2H), 6.70 (s, 1H), 3.17 (s, 2H), 2.43 (s, 2H), 1.65 (s, 3H), 0.86 (s, 9H); (M+H) found: 368.

reactant | Hydrogen chloride | 24 mmol, 4 M, 6 mL | Cl | ClH
reactant | 4-(2,2-dimethylpropyl)-2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 3.27 mmol, 1.5 g | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)(C)O)(C)C | C24H31FN4O3S
solvent | methanol | 20 mL | CO | CH4O
product | 2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol | CC(CC=1N=C(NC1)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)(C)O)(C)C | C22H26FN3O
